US07141575B2
2-Bromomethyl-4-nitropyridine
A solution of 2-methyl-4-nitropyridine (1.79 g, 13.0 mmol) in CCl4 (30 mL) was treated with N-bromosuccinimide (2.31 g, 13.0 mmol) and benzoyl peroxide (420 mg, 1.30 mmol), stirred at 80° C. for 16 h, cooled to room temperature, filtered through Celite, concentrated in vacuo and purified by chromatography [SiO2; isohexane:EtOAc (15:1)] to give the title compound (700 mg, 25%) as a colourless oil; NMR δH (400 MHz, CDCl3) 8.89 (1H, d, J 5.0 Hz), 8.19 (1H, d, J 2.0 Hz), 7.96 (1H, dd, J 5.0, 2.0 Hz) and 4.66 (2H, s).

reactant | 2-methyl-4-nitropyridine | 13.0 mmol, 1.79 g | CC1=NC=CC(=C1)[N+](=O)[O-] | C6H6N2O2
reactant | N-bromosuccinimide | 13.0 mmol, 2.31 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.30 mmol, 420 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-4-nitropyridine | 700 mg, 25% | BrCC1=NC=CC(=C1)[N+](=O)[O-] | C6H5BrN2O2
